US09212190B2
To a solution of tert-butyl N-(4-[[(3S)-3-(hydroxymethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]amino]cyclohexyl)carbamate (400 mg, 0.96 mmol, 1.00 equiv) and triethylamine (0.27 mL, 2.00 equiv) in dichloromethane (20 mL) was added dropwise MsCl (164 mg, 1.43 mmol, 1.50 equiv). The resulting solution was stirred for 2 h at room temperature. The reaction was then quenched by the addition of 50 mL of water. The resulting solution was extracted with 2×40 mL of ethyl acetate and the organic layers combined and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:10). Purification afforded 379 mg (80%) of tert-butyl N-(4-[[(3S)-3-[(methanesulfonyloxy)methyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]amino]cyclohexyl)carbamate as a light yellow oil.

reactant | tert-butyl N-(4-[[(3S)-3-(hydroxymethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]amino]cyclohexyl)carbamate | 0.96 mmol, 400 mg, 1.00 equiv | OC[C@@H]1C=2C3=C(N=CN=C3SC2CC1)NC1CCC(CC1)NC(OC(C)(C)C)=O | C21H30N4O3S
reactant | triethylamine | 0.27 mL, 2.00 equiv | C(C)N(CC)CC | C6H15N
reactant | MsCl | 1.43 mmol, 164 mg, 1.50 equiv | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | tert-butyl N-(4-[[(3S)-3-[(methanesulfonyloxy)methyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(12),2(6),8,10-tetraen-12-yl]amino]cyclohexyl)carbamate | 379 mg, 80% | CS(=O)(=O)OC[C@@H]1C=2C3=C(N=CN=C3SC2CC1)NC1CCC(CC1)NC(OC(C)(C)C)=O | C22H32N4O5S2
